US06815438B2
3-Chloro-5-(1-pyrrolyl)-pyridine:
A mixture of 3.5 dichloropyridine (10.0 g, 67.6 mmol), pyrrole (5.50 g, 81.1 mmol), sodium hydride 60% (3.52 g, 87.9 mmol) and dimethyl sulfoxide (50 ml) was stirred at 70° C. for 2 hours. Aqueous sodium hydroxide (200 ml, 1 M) was added and the mixture was extracted three times with diethyl ether (100 ml). The mixture was evaporated and purified by chromatography on silica gel with dichloromethane and ethanol (4%) as solvent. Yield 6.3 g, 52%. Mp 70.5-72.0° C.

reactant | dichloropyridine | 67.6 mmol, 10.0 g | ClC=1C(=NC=CC1)Cl | C5H3Cl2N
reactant | pyrrole | 81.1 mmol, 5.50 g | N1C=CC=C1 | C4H5N
reactant | sodium hydride | 87.9 mmol, 3.52 g | [H-].[Na+]
reactant | sodium hydroxide | 1 M, 200 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 3-Chloro-5-(1-pyrrolyl)-pyridine | ClC=1C=NC=C(C1)N1C=CC=C1 | C9H7ClN2
